US05238600
A mixture of 5.0 g of 3-(trans-4-pentylcyclohexyl)-1-propyl bromide, 10.0 g of hydroquinone, 10.0 g of anhydrous potassium carbonate and 250 ml of absolute butanone was heated under reflux overnight. Subsequently, the cooled reaction mixture was poured into water and extracted three times with 100 ml of dichloromethane each time. The combined organic phases were washed with 500 ml of water, dried over magnesium sulfate, filtered and concentrated. Chromatography of the residue on silica gel with toluene/ethyl acetate (vol. 4:1) gave 2.9 g of 4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenol; m.p. 100°-101° C.

reactant | 3-(trans-4-pentylcyclohexyl)-1-propyl bromide | 5.0 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCCBr | C14H27Br
reactant | hydroquinone | 10.0 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | butanone | 250 ml | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | 4-[3-(trans-4-pentylcyclohexyl)-1-propyloxy]phenol | 2.9 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCCOC1=CC=C(C=C1)O | C20H32O2
